US07700594B2
4-(Methoxycarbonyl)-4-methylcyclohexanecarboxylic acid
N,N-Diisopropylamine (1.18 mL, 8.35 mmol) was added dropwise to a 2M solution of nbuthyllithium (4.188 mL, 8.4 mmol) at −78° C. under nitrogen. After 15 min at this temperature the solution was raised to and held at 0° C. for 15 min prior to re-cooling to −78° C. and treatment with a solution of 4-(methoxycarbonyl)cyclohexanecarboxylic acid (0.62 g, 3.34 mmol) in THF (8 mL). After 30 min., iodomethane (0.31 mL, 5 mmol) was added dropwise and the mixture was allowed to warm to rt over 2 hr. The mixture was cooled to at 0° C., quenched with 2 N HCl (10 mL) then was extracted with EtOAc (2×10 mL), washed with brine (3×15 mL), and dried over anhydrous magnesium sulfate. Concentration of the combined organic extracts afforded a yellow solid. NMR (CDCl3) consistent with crude, desired product.

reactant | N,N-Diisopropylamine | 8.35 mmol, 1.18 mL | C(C)(C)NC(C)C | C6H15N
reactant | 4-(methoxycarbonyl)cyclohexanecarboxylic acid | 3.34 mmol, 0.62 g | COC(=O)C1CCC(CC1)C(=O)O | C9H14O4
reactant | iodomethane | 5 mmol, 0.31 mL | IC | CH3I
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 4-(Methoxycarbonyl)-4-methylcyclohexanecarboxylic acid | COC(=O)C1(CCC(CC1)C(=O)O)C | C10H16O4
